US04666513
Preparation of 2-phenyl-4-lauroyl-5-phenyl-(3H)-pyrazol-3-one
Following the procedure of example 18 with the same proportions but replacing 2-phenyl-5-methyl-(3H)-pyrazol-3-one by 2-phenyl-5-phenyl-(3H)-pyrazol-3-one (MW=136.3 g; mp=136° C.) and 2-ethylhexanoyl chloride by lauroyl chloride a solid product is obtained which after recrystallisation in hexane has a melting point of 69° C.

reactant | 2-phenyl-5-phenyl-(3H)-pyrazol-3-one | C1(=CC=CC=C1)N1NC(=CC1=O)C1=CC=CC=C1 | C15H12N2O
reactant | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | 2-phenyl-4-lauroyl-5-phenyl-(3H)-pyrazol-3-one | C1(=CC=CC=C1)N1NC(=C(C1=O)C(CCCCCCCCCCC)=O)C1=CC=CC=C1 | C27H34N2O2
